US06555552B2
(1R*,2R*,5S*)-2-(2-Chloro-5-(trifluoromethoxy)benzylamino)-1-phenyl-8-azabicyclo[3.2.1]octane Dihydrochloride
(1R*,2R*,5S*)-2-Amino-1-phenyl-8-azabicyclo[3.2.1]octane (Description 6; 77 mg, 0.38 mmol) and 2-chloro-5-(trifluoromethoxy)benzaldehyde (Description 27; 120 mg, 0.53 mmol) were dissolved in 1,2-dichloroethane (5 mL) and acetic acid (1mL), then treated with sodium triacetoxyborohydride (128 mg, 0.6 mmol). The suspension was stirred at room temperature for 16 hours, then diluted with methanol (5 mL). Sodium cyanoborohydride was added (200 mg, 0.9 mmol) and this solution stirred for a further 16 hours at ambient temperature. The resulting mixture was poured into saturated aqueous sodium hydrogen carbonate solution (50 mL) and extracted with dichloromethane (2×50 mL). The extracts were dried (MgSO4) and concentrated to yield a gum, which was purified by silica chromatography. The pure free base was dissolved in ethyl acetate (10 mL) and treated with ethereal hydrogen chloride (2 mL, 1M). The solid formed was removed by filtration, washed with diethyl ether and dried to give the title compound as a solid (46 mg, 0.1 mmol).

reactant | (1R*,2R*,5S*)-2-Amino-1-phenyl-8-azabicyclo[3.2.1]octane | 0.38 mmol, 77 mg | N[C@H]1[C@@]2(CC[C@H](CC1)N2)C2=CC=CC=C2 | C13H18N2
reactant | 2-chloro-5-(trifluoromethoxy)benzaldehyde | 0.53 mmol, 120 mg | ClC1=C(C=O)C=C(C=C1)OC(F)(F)F | C8H4ClF3O2
reactant | sodium triacetoxyborohydride | 0.6 mmol, 128 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Sodium cyanoborohydride | C(#N)[BH3-].[Na+]
reactant | sodium hydrogen carbonate | 50 mL | C(O)([O-])=O.[Na+]
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
solvent | acetic acid | 1mL | C(C)(=O)O | C2H4O2
solvent | methanol | 5 mL | CO | CH4O
product | (1R*,2R*,5S*)-2-(2-Chloro-5-(trifluoromethoxy)benzylamino)-1-phenyl-8-azabicyclo[3.2.1]octane Dihydrochloride | 0.1 mmol, 46 mg | Cl.Cl.ClC1=C(CN[C@H]2[C@@]3(CC[C@H](CC2)N3)C3=CC=CC=C3)C=C(C=C1)OC(F)(F)F | InChI=1S/C21H22ClF3N2O.2ClH/c22-18-8-7-17(28-21(23,24)25)12-14(18)13-26-19-9-6-16-10-11-20(19,27-16)15-4-2-1-3-5-15;;/h1-5,7-8,12,16,19,26-27H,6,9-11,13H2;2*1H/t16-,19+,20+;;/m0../s1
